US04007189
8-Benzyl-6,7-dihydro-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine
A mixture of 2g of 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine, 0.94g of benzylamine, 3 ml of triethylamine and 20 ml of ethanol was stirred under reflux for 1 hour. The reaction mixture was then concentrated under reduced pressure and the residue was washed with water. The crystals thus obtained were recrystallized from ethanol to give 1.4g of colorless prisms of m.p. 170.5° - 172° C.

reactant | 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine | ClC1=C(C(=NC=2N1N=CN2)C)CCCl | C8H8Cl2N4
reactant | benzylamine | 0.94g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-Benzyl-6,7-dihydro-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine | 1.4g | C(C1=CC=CC=C1)N1CCC=2C(=NC=3N(C21)N=CN3)C | C15H15N5
